US06660753B2
A mixture of 3-(2-pyridyl)-5-(3-cyano-5-methylphenyl)-1,2,4-oxadiazole (0.5 g, 1.91 mmol), N-bromosuccinimide (0.339 g, 1.91 mmol), and benzoyl peroxide (0.0010 g, 0.04 mmol) in carbon tetrachloride (25 mL) was heated at 80° C. for 18 hours. After this time the reaction mixture was cooled and diluted with dichloromethane. The organic solution was washed with water and brine to afford 0.595 g (91%) of 3-(2-pyridyl)-5-(3-bromomethyl-5-cyanophenyl)-1,2,4-oxadiazole.

reactant | 3-(2-pyridyl)-5-(3-cyano-5-methylphenyl)-1,2,4-oxadiazole | 1.91 mmol, 0.5 g | N1=C(C=CC=C1)C1=NOC(=N1)C1=CC(=CC(=C1)C)C#N | C15H10N4O
reactant | N-bromosuccinimide | 1.91 mmol, 0.339 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 25 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | benzoyl peroxide | 0.04 mmol, 0.0010 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 3-(2-pyridyl)-5-(3-bromomethyl-5-cyanophenyl)-1,2,4-oxadiazole | 0.595 g, 91% | N1=C(C=CC=C1)C1=NOC(=N1)C1=CC(=CC(=C1)C#N)CBr | C15H9BrN4O
